US05236956
N-(2-hydroxyethyl)-N-methyl-2,2-diphenylacetamide
To a mixture of 9 g (0.12 mole) of N-methylaminoethanol and 17 g (0.12 mole) of potassium carbonate in 100 ml of acetone was added 25 g (0.11 mole) 2,2-diphenylacetylchloride. The mixture was stirred for 0.5 hours and then refluxed for 3 hours. The mixture was cooled and filtered. The salt was extracted with 3×125 ml methylene chloride. The collected organic extracts were evaporated.

reactant | N-methylaminoethanol | 0.12 mole, 9 g | CNC(C)O | C3H9NO
reactant | potassium carbonate | 0.12 mole, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-diphenylacetylchloride | 0.11 mole, 25 g | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(2-hydroxyethyl)-N-methyl-2,2-diphenylacetamide | OCCN(C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C17H19NO2
